US06288086B1
4-(4-Butoxy-benzenesulfonyl)-1-(3-methoxy-benzyl)-piperidine-4-carboxylic acid was prepared starting from 4-(4-methoxy-benzenesulfonyl)-1-(3-methoxy-benzyl)-piperidine-4-carboxylic acid ethyl ester (2.61 g, 5.34 mmol) dissolved in THF:methanol (3:1 150 ml) and 10 N NaOH (15 ml). The resulting reaction mixture was worked up as outlined in example 83. Yield 1 g (41%); brown solid; mp 175° C.; MS: 462.0 (M+H)+

reactant | 4-(4-methoxy-benzenesulfonyl)-1-(3-methoxy-benzyl)-piperidine-4-carboxylic acid ethyl ester | 5.34 mmol, 2.61 g | C(C)OC(=O)C1(CCN(CC1)CC1=CC(=CC=C1)OC)S(=O)(=O)C1=CC=C(C=C1)OC | C23H29NO6S
reactant | THF methanol | 150 ml | C1CCOC1.CO
solvent | NaOH | 10 N, 15 ml | [OH-].[Na+]
product | 4-(4-Butoxy-benzenesulfonyl)-1-(3-methoxy-benzyl)-piperidine-4-carboxylic acid | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)CC1=CC(=CC=C1)OC)C(=O)O | C24H31NO6S
